US06013663
5(1,2-Dithiolan-3-yl)pentanol
A solution of ethyl 5-(1,2-dithiolan-3-yl)pentanoate in 40 ml of anhydrous tetrahydrofuran was added dropwise, whilst cooling with ice and sodium chloride, to a suspension of 3.34 g of lithium aluminum hydride in 150 ml of anhydrous tetrahydrofuran. The resulting mixture was stirred at room temperature for 3 hours and 30 minutes. Sodium sulfate decahydrate was then added, whilst cooling with ice and sodium chloride, to the reaction mixture, and then the mixture was stirred at room temperature for 3 hours. The reaction mixture was allowed to stand overnight at room temperature, and then insoluble matter was filtered off using a Celite (trade mark) filter aid. The solvent was removed from the filtrate by distillation under reduced pressure. 50 ml of methanol, 25 ml of a 1 N aqueous solution of sodium hydroxide and 10 ml of 2 N aqueous hydrochloric acid were then added to the residue. Air was then blown into the resulting mixture. Five drops of a 1% aqueous solution of ferric chloride were added dropwise to the reaction mixture, and then the mixture was stirred at room temperature for one hour. The reaction mixture was allowed to stand overnight at room temperature, and then the solvent was removed by distillation under reduced pressure. Water was added to the residue, after which it was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and then dried over anhydrous sodium sulfate. Ethyl acetate was removed from the extract by distillation under reduced pressure, and the residue was subjected to silica gel column chromatography, using 1:2 and 1:1 by volume mixtures of ethyl acetate and hexane as eluent. The solvent was removed from the resulting eluate by distillation under reduced pressure, and 30 ml of toluene were added to the residue. 1 ml was taken from the resulting solution, and the solvent was removed by distillation under reduced pressure, to give 0.13 g of the title compound as a yellow oil having an Rf value of 0.39 (silica gel thin layer chromatography; using a 1:1 by volume mixture of ethyl acetate and hexane as the eluent).

reactant | ethyl 5-(1,2-dithiolan-3-yl)pentanoate | S1SC(CC1)CCCCC(=O)OCC | C10H18O2S2
reactant | sodium chloride | [Cl-].[Na+]
reactant | lithium aluminum hydride | 3.34 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 5(1,2-Dithiolan-3-yl)pentanol | 0.13 g | S1SC(CC1)CCCCCO | C8H16OS2
